US09387200B2
a) 3-(4-Chloro-phenyl)-4-hydroxy-7-naphthalen-1-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
The title compound was synthesized in analogy to Example 1 from 7-bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester and 1-naphthylboronic acid: MS (m/z) 461.0 (M+1).

reactant | 7-bromo-3-(4-chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C2=CC=C(C=C2)Cl)O | C15H10BrClN2O3S
reactant | 1-naphthylboronic acid | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 3-(4-Chloro-phenyl)-4-hydroxy-7-naphthalen-1-yl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C1=CC=CC3=CC=CC=C13)SN=C2C2=CC=C(C=C2)Cl)O | C25H17ClN2O3S
